US08314097B2
5-(4-Ethoxycarbonyl-2-fluorophenyl)-6,7-dihydro-5H-pyrrolo[1,2-c]imidazole-5-carboxylic acid
To a solution of 5-(4-cyano-2-fluorophenyl)-6,7-dihydro-5H-pyrrolo[1,2-c]imidazole-5-carboxylic acid methyl ester (0.250 g, 0.877 mmol) in THF/EtOH (2:1, 21 mL) is added an aqueous solution of LiOH (0.88 mL, 2 M) is added. After 2.5 h the solution is concentrated and the resulting residue is purified by HPLC (2-23% MeCN/water containing 0.1% TFA). The title compound, 5-(4-ethoxycarbonyl-2-fluorophenyl)-6,7-dihydro-5H-pyrrolo[1,2-c]imidazole-5-carboxylic acid, is isolated as a minor product. MS (ESI) m/z 319.0 (M+H).

reactant | 5-(4-cyano-2-fluorophenyl)-6,7-dihydro-5H-pyrrolo[1,2-c]imidazole-5-carboxylic acid methyl ester | 0.877 mmol, 0.250 g | COC(=O)C1(CCC=2N1C=NC2)C2=C(C=C(C=C2)C#N)F | C15H12FN3O2
reactant | LiOH | 2 M, 0.88 mL | [Li+].[OH-]
reactant | THF EtOH | 21 mL | C1CCOC1.CCO
product | 5-(4-ethoxycarbonyl-2-fluorophenyl)-6,7-dihydro-5H-pyrrolo[1,2-c]imidazole-5-carboxylic acid | C(C)OC(=O)C1=CC(=C(C=C1)C1(CCC=2N1C=NC2)C(=O)O)F | C16H15FN2O4
